US06369266B1
The resulting reaction solution was stirred at 170° C. for 8 hours, and then cooled to 90° C. To this reaction solution was added dropwise 177.5 g of water. After the completion of dropwise addition, the mixture was stirred for 30 minutes. To this mixture was added 66.6 g of toluene, and 52.64 g (505.3 mmol) of 35% hydrochloric acid was further added dropwise. The temperature inside the flask was raised to 75° C. to dissolve the resulting product in toluene and form into two layers. After the solution was allowed to stand to separate into layers, the lower aqueous layer was removed therefrom. The toluene layer was dehydrated over anhydrous magnesium sulfate, and then gradually cooled to allow sedimentation of white crystals of 4′-methylbiphenyl-2-carboxylic acid. The temperature was lowered to 0° C., and its temperature was maintained for one hour, and then the crystals were filtered. After the crystals were washed with 20 g of toluene at 0° C., the crystals were air-dried to give 44.1 g of white crystals of 4′-methylbiphenyl-2-carboxylic acid (yield: 90.4% based on 2-cyano-4′-methylbiphenyl, purity: 99.9%). The resulting white crystals had a melting point of 150.1° C.

reactant | water | 177.5 g | O | H2O
reactant | hydrochloric acid | 505.3 mmol, 52.64 g | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 66.6 g | C1(=CC=CC=C1)C | C7H8
product | 4′-methylbiphenyl-2-carboxylic acid | yield: 90.4% | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C14H12O2
